US06353006B1
To a solution of N-isobutyl-3-hydroxypropylamine (1.01 g, 7.70 mmol) in toluene (100 mL) was added SOCl2 (1.37 g, 11.6 mmol, 1.5 equiv.) and the resulting mixture was stirred at room temp. for 4 h. The resulting slurry was concentrated under reduced pressure to afford N-isobutyl-3-chloropropylamine HCl salt: 1H NMR (CDCl3) δ1.12 (s, 9H), 1.28 (t, J=7.0 Hz, 3H), 4.24 (q, J=7.0 Hz, 2H), 4.55 (s, 1H), 5.00 (s, 2H); 13C NMR (CDCl3) δ13.9, 27.8, 38.2, 61.5, 67.1, 67.3, 117.0, 167.1, 180.7; CI-LRMS m/z (rel abundance) 150 ((M+H)+, 100%).

reactant | N-isobutyl-3-hydroxypropylamine | 7.70 mmol, 1.01 g | C(C(C)C)NCCCO | C7H17NO
reactant | SOCl2 | 11.6 mmol, 1.37 g, 1.5 equiv. | O=S(Cl)Cl | Cl2OS
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-isobutyl-3-chloropropylamine HCl salt | Cl.C(C(C)C)NCCCCl | InChI=1S/C7H16ClN.ClH/c1-7(2)6-9-5-3-4-8;/h7,9H,3-6H2,1-2H3;1H
